US07192945B2
3,3-Dibutyl-4-oxo-5-(4-nitrophenyl)-8-methoxy-2,3,4,5-tetrahydro-1,5-benzothiazepine
To 3,3-dibutyl-4-oxo-8-methoxy-2,3,4,5-tetrahydro-1,5-benzothiazepine (synthesised by the procedure of WO9616051 for the corresponding 3-butyl-3-ethyl analogue; 2.9 g, 9.0 mmol) was added p-nitrophenylbromide (24 g, 119 mmol), K2CO3 (1.6 g, 12 mmol) and CuI (180 mg, 0.95 mmol). The reaction mixture was heated to 200° C. overnight. Then it was allowed to cool down to room temperature and the resulting solid was purified by chromatography using DCM as eluent. The fractions containing the product were concentrated under reduced pressure and EtOH (95%) was added and the insoluble p-nitrophenylbromide was then filtered off. The residue was purified again by flash chromatography using DCM as eluent. The product was still not pure so the residue was then purified by flash chromatography using EtOAc:heptane, 1:9 as eluent to give the title compound 2.57 g (64%). NMR (600 MHz) 0.77–0.87 (m, 6H), 1.12–1.31 (m, 8H), 1.4–1.6 (m, 4H), 3.09 (brs, 2H), 3.79 (s, 3H), 6.72–6.83 (m, 2H), 7.18–7.27 (m, 3H), 8.3 (d, 2H).

reactant | 3,3-dibutyl-4-oxo-8-methoxy-2,3,4,5-tetrahydro-1,5-benzothiazepine | C(CCC)C1(CSC2=C(NC1=O)C=CC(=C2)OC)CCCC | C18H27NO2S
reactant | p-nitrophenylbromide | 119 mmol, 24 g | [N+](=O)([O-])C1=CC=C(C=C1)Br | C6H4BrNO2
reactant | K2CO3 | 12 mmol, 1.6 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | CuI | 0.95 mmol, 180 mg | [Cu]I
product | 3,3-Dibutyl-4-oxo-5-(4-nitrophenyl)-8-methoxy-2,3,4,5-tetrahydro-1,5-benzothiazepine | 2.57 g, 64% | C(CCC)C1(CSC2=C(N(C1=O)C1=CC=C(C=C1)[N+](=O)[O-])C=CC(=C2)OC)CCCC | C24H30N2O4S
